datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([C:3]([H:10])([H:11])[H:12])=[O:4])([H:8])[H:9])([H:5])([H:6])[H:7].[O:13][O:14]>>[C:0]([C:1]([C:2]([C:3]([H:10])([H:11])[H:12])=[O:4])([H:8])[H:9])([H:6])[H:7].[H:5][O:13][O:14],214.68104
[O:0].[S:1][H:2]>>[O:0][H:2].[S:1],15.0
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8].[H:20]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8].[H:11][H:20],18.706664
[C:0](=[C:1]([C:2]([C:3]([H:14])([H:15])[H:16])=[C:4]([c:5]1[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]1[H:22])[H:17])[H:13])([H:11])[H:12].[C:23](=[C:24]([H:26])[H:27])[H:25]>>[C:0](=[C:1]([C:2]([C:3]([H:14])([H:15])[H:16])[C:4]([c:5]1[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]1[H:22])([H:17])[C:23](=[C:24]([H:26])[H:27])[H:25])[H:13])([H:11])[H:12],4.97896
[C:0]1([H:6])[C:1]([H:7])([H:8])[C:2]([H:9])([H:10])[C:3]([H:11])([H:12])[C:4]([H:13])([H:14])[C:5]1([H:15])[H:16].[O:17][O:18]>>[C:0]1([H:6])([O:17][O:18])[C:1]([H:7])([H:8])[C:2]([H:9])([H:10])[C:3]([H:11])([H:12])[C:4]([H:13])([H:14])[C:5]1([H:15])[H:16],-6.250896
[C:0]([C:1](=[O:2])[H:6])([H:3])([H:4])[H:5].[S:7][H:8]>>[C:0]([C:1]=[O:2])([H:3])([H:4])[H:5].[H:6][S:7][H:8],0.75312
[C:0]([C:1]([C:2]([O:3][H:10])([H:8])[H:9])[H:7])([H:4])([H:5])[H:6]>>[C:0]([C:1]([C:2]([O:3])([H:8])[H:9])([H:7])[H:10])([H:4])([H:5])[H:6],105.562
[C:0]1([H:7])[C:1]([H:8])=[C:2]([H:9])[C:3]([H:10])=[C:4]([H:11])[C:5]([H:12])([H:13])[C:6]1([H:14])[H:15]>>[C:0]1([H:7])=[C:6]([H:15])[C:5]([H:12])([H:13])[C:4]([H:11])=[C:3]([H:10])[C:2]([H:9])=[C:1]1[H:8].[H:14],202.5056
[C:0]([O:1][C:2]([C:3]([H:8])([H:9])[H:10])=[O:4])([H:5])([H:6])[H:7].[C:11]([H:12])([H:13])[H:14]>>[C:0]([O:1][C:2]([C:3]([H:9])[H:10])=[O:4])([H:5])([H:6])[H:7].[H:8][C:11]([H:12])([H:13])[H:14],3.736312
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[C:3]([H:9])([H:10])[H:11])([H:4])[H:5].[c:12]1[c:13]([H:18])[c:14]([H:19])[c:15]([H:20])[c:16]([H:21])[c:17]1[H:22]>>[C:0]([C:1]([C:2]([H:6])([H:7])[H:8])([C:3]([H:9])([H:10])[H:11])[c:12]1[c:13]([H:18])[c:14]([H:19])[c:15]([H:20])[c:16]([H:21])[c:17]1[H:22])([H:4])[H:5],7.61488
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])=[C:4]([C:5](=[C:6]([H:13])[H:14])[H:12])[H:11])[H:7].[C:15](=[C:16]([C:17]([C:18](=[C:19]([H:25])[H:26])[H:24])[H:23])[H:22])([H:20])[H:21]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])[C:4]([C:5](=[C:6]([H:13])[H:14])[H:12])([H:11])[C:17]([C:16](=[C:15]([H:20])[H:21])[H:22])([C:18](=[C:19]([H:25])[H:26])[H:24])[H:23])[H:7],60.8772
[C:0](#[C:1][C:2](=[C:3]([C:4](=[C:5]([H:10])[H:11])[H:9])[H:8])[H:7])[H:6].[C:12](=[C:13]([C:14]([C:15]([H:20])([H:21])[H:22])[H:19])[H:18])([H:16])[H:17]>>[C:0](#[C:1][C:2]([C:3]([C:4](=[C:5]([H:10])[H:11])[H:9])[H:8])([H:7])[C:14]([C:13](=[C:12]([H:16])[H:17])[H:18])([C:15]([H:20])([H:21])[H:22])[H:19])[H:6],39.497
[C:0]([C:1]([C:2]([C:3]([O:4][C:5](=[O:6])[H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9].[Cl:17]>>[C:0]([C:1]([C:2]([C:3]([O:4][C:5](=[O:6])[H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9].[H:7][Cl:17],2.50016
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([H:16])([H:17])[H:18])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])[H:9])([H:6])([H:7])[H:8].[H:19]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([H:16])([H:17])[H:18])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])[H:9])([H:7])[H:8].[H:6][H:19],0.0
[C:0](=[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])[C:5]([H:14])([H:15])[H:16])([H:9])[H:10])[H:8])([H:6])[H:7]>>[C:0](=[C:1][C:2]([C:3]([C:4]([H:11])([H:12])[H:13])([C:5]([H:14])([H:15])[H:16])[H:8])([H:9])[H:10])([H:6])[H:7],176.983
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[S:4][H:11])[H:7])([H:5])[H:6].[C:12]([C:13]([C:14](=[S:15])[H:21])([H:19])[H:20])([H:16])([H:17])[H:18]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([S:4][H:11])[H:19])[H:7])([H:5])[H:6].[C:12]([C:13]([C:14](=[S:15])[H:21])[H:20])([H:16])([H:17])[H:18],65.4378
[C:0](=[C:1]([C:2]1([H:10])[C:3]([H:11])=[C:4]([H:12])[C:5]([H:13])[C:6]1([H:14])[H:15])[H:9])([H:7])[H:8]>>[C:0]1([H:7])([H:8])[C:1]([H:9])[C:2]2([H:10])[C:3]([H:11])=[C:4]([H:12])[C:5]1([H:13])[C:6]2([H:14])[H:15],130.5408
[C:0](=[C:1]([O:2])[H:5])([H:3])[H:4].[O:6]([O:7][H:9])[H:8]>>[C:0](=[C:1]([O:2][H:8])[H:5])([H:3])[H:4].[O:6][O:7][H:9],117.985
[C:0]([C:1]=[O:2])([H:3])([H:4])[H:5].[O:6][H:7]>>[C:0](=[C:1]=[O:2])([H:4])[H:5].[H:3][O:6][H:7],0.0
[C:0](=[C:1]([C:2]([C:3]([C:4](=[C:5]([H:14])[H:15])[H:13])([H:11])[H:12])([H:9])[H:10])[H:8])([H:6])[H:7].[C:16]([H:17])([H:18])[H:19]>>[C:0](=[C:1]([C:2]([C:3]([C:4](=[C:5]([H:14])[H:15])[H:13])([H:11])[H:12])[H:10])[H:8])([H:6])[H:7].[H:9][C:16]([H:17])([H:18])[H:19],16.744368
[C:0]([H:1])([H:2])([H:3])[H:4].[C:5](#[C:6][C:7]=[C:8]([H:10])[H:11])[H:9]>>[C:0]([H:2])([H:3])[H:4].[H:1][C:7]([C:6]#[C:5][H:9])=[C:8]([H:10])[H:11],44.7688
